US08048897B2
(2) Synthesis of 4-Fluoro-2-(4-methoxy-benzyl)phenol
To a solution of (2-benzyloxy-5-fluorophenyl)-(4-methoxyphenyl)-methanol (0.98 g, 2.90 mmol) in methanol (18.6 mL), a 20% palladium hydroxide catalyst (98 mg) was added and furthermore 2N—HCl (1 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere for 15 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:6)] to obtain the title compound (0.55 g, 82%).

reactant | (2-benzyloxy-5-fluorophenyl)-(4-methoxyphenyl)-methanol | 2.90 mmol, 0.98 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)F)C(O)C1=CC=C(C=C1)OC | C21H19FO3
reactant | HCl | 1 mL | Cl | ClH
solvent | methanol | 18.6 mL | CO | CH4O
catalyst | palladium hydroxide | 98 mg | [OH-].[Pd+2].[OH-]
product | 4-Fluoro-2-(4-methoxy-benzyl)phenol | 0.55 g, 82% | FC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)OC | C14H13FO2
